US09284286B2
To a solution of ethanethioic acid S—[3,3-difluoro-3-(4-fluorophenyl)-propyl]ester (0.26 g, 1.05 mmol) in EtOH (3 ml) is added 35% aqueous sodium hydroxide (3 ml) at 0° C. and the reaction mixture is stirred at RT for 1 h. After completion of the reaction, the solvent is distilled off and the residue is diluted with water (10 ml) before acidification with 2N hydrochloric acid to pH 2. The aqueous layer is extracted with EtOAc (3×15 ml) and the combined organic layers are washed with water (20 ml), brine (20 ml), dried over anhydrous sodium sulfate and evaporated to get 3,3-difluoro-3-(4-fluorophenyl)-propane-1-thiol (0.20 g, 0.97 mmol, 92%), which is used in the next step without further purification.

reactant | ethanethioic acid S—[3,3-difluoro-3-(4-fluorophenyl)-propyl]ester | 1.05 mmol, 0.26 g | FC(CCSC(C)=O)(C1=CC=C(C=C1)F)F | C11H11F3OS
reactant | sodium hydroxide | 3 ml | [OH-].[Na+]
solvent | EtOH | 3 ml | CCO | C2H6O
product | 3,3-difluoro-3-(4-fluorophenyl)-propane-1-thiol | 0.97 mmol, 0.20 g, 92% | FC(CCS)(C1=CC=C(C=C1)F)F | C9H9F3S
